US04713457
1.6 g of 50% sodium hydride in an oil was added in small portions to a mixture of 10 g of ethyl 4-methyl-5-imidazolecarboxylate and 70 ml of dimethylformamide, and the resulting mixture was stirred for 30 minutes. 4.1 g of 6-methylergolin-8β-ylmethyl tosylate was added to the mixture which was then heated on a water bath for 2 hours. The solvent was distilled off under reduced pressure, and the residue was subjected to alumina column chromatography eluting with ethyl acetate to obtain ethyl 4-methyl-1-(6-methylergolin-8β-ylmethyl)-5-imidazolecarboxylate from the first fraction. The product was recrystallized from dichloromethane-diethyl ether and was colorless prisms having a melting point of 225°-227° C. Yield, 0.7 g. This compound is hereinafter referred to as Compound 15A.

reactant | sodium hydride | 1.6 g | [H-].[Na+]
reactant | ethyl 4-methyl-5-imidazolecarboxylate | 10 g | CC=1N=CNC1C(=O)OCC | C7H10N2O2
reactant | 6-methylergolin-8β-ylmethyl tosylate | 4.1 g | S(=O)(=O)(OC[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C)C3=CC=C(C)C=C3 | C23H26N2O3S
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | ethyl 4-methyl-1-(6-methylergolin-8β-ylmethyl)-5-imidazolecarboxylate | CC=1N=CN(C1C(=O)OCC)C[C@H]1CN([C@@H]2CC3=CNC4=CC=CC([C@H]2C1)=C34)C | C23H28N4O2
